US05631401
N-tert-Butyloxycarbonyl-4-piperidone
4-Piperidone monohydrate hydrochloride (5 g, 0.033 mol) was added to 50 mL distilled water and stirred until dissolved. To this solution was added solid sodium bicarbonate (3 g, 0.035 mol) followed by tert-butyl dicarbonate (7.2 g, 0.033 mol), and the resulting clear solution was stirred for 20 hours at room temperature. The slurry was treated with 100 mL of ethyl acetate and stirred until all solids dissolved. The layers were separated, and the organic layer was washed with 30 mL of 1N H3PO4 and 30 mL of 10% NaCl, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to afford 5.6 g (86%) of the title compound. 1H NMR (300 MHz, CDCl3) δ 3.75-3.68 (t, 4H), 2.47-2.40 (t, 4H), 1.5 (s, 9H). MS (DCl/NH3) m/e 200 (M+H)+, 217 (M+H+NH3)+.

reactant | 4-Piperidone monohydrate hydrochloride | 0.033 mol, 5 g | Cl.O.N1CCC(CC1)=O
reactant | sodium bicarbonate | 0.035 mol, 3 g | C([O-])(O)=O.[Na+]
reactant | tert-butyl dicarbonate | 0.033 mol, 7.2 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-tert-Butyloxycarbonyl-4-piperidone | 5.6 g, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
